US09217085B2
For example, mesityl oxide, was reacted with phosphorous acid in the presence of acetic anhydride and acetic acid under mild conditions to yield 4-methylpenta-2,4-diene-2-phosphonic acid in more than 90% mole purity.

reactant | mesityl oxide | O=C(C)C=C(C)C | C6H10O
reactant | phosphorous acid | P(O)(O)O | H3O3P
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-methylpenta-2,4-diene-2-phosphonic acid | CC(C=C(C)P(O)(=O)O)=C | C6H11O3P
